US08912186B2
N-(2-Aminophenyl)-3-(4-chlorophenyl)glutaramic acid (2.04 g) is dissolved in a mixture of ethanol (20 ml) and conc. HCl (5 ml) and heated to reflux overnight. The ethanol is removed in vacuo and the aqueous layer is neutralised with 10M NaOH. Saturated sodium bicarbonate solution (40 ml) is added and the aqueous layer is extracted twice with dichloromethane (50 ml). The combined organic layers are dried (sodium sulfate) and concentrated. The residue is purified by flash chromatography (dichloromethane/3% methanol/1% triethyl amine) on silica gel to afford ethyl 4-(2-benzimidazolyl)-3-(4-chlorophenyl)butanoate (1.39 g) as yellowish solid.

reactant | N-(2-Aminophenyl)-3-(4-chlorophenyl)glutaramic acid | 2.04 g | NC1=C(C=CC=C1)NC(CC(CC(=O)O)C1=CC=C(C=C1)Cl)=O | C17H17ClN2O3
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | HCl | 5 ml | Cl | ClH
product | ethyl 4-(2-benzimidazolyl)-3-(4-chlorophenyl)butanoate | 1.39 g | N1=C(NC2=C1C=CC=C2)CC(CC(=O)OCC)C2=CC=C(C=C2)Cl | C19H19ClN2O2
